US04824839
A mixture of 2,3-dihydro-8-methoxy-2-oxo-1H-3-benzazepine (12 g, 0.063 m) and 10% palladium-on-carbon (1.2 g) in acetic acid (200 ml) was shaken in an atmosphere of hydrogen (60 psi), degassed, filtered and concentrated in vacuo. The residue was dissolved in methylene chloride, washed with water, dried with magnesium sulfate and concentrated in vacuo. The residue was triturated with ether and filtered to give 8-methoxy-2-oxo-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 2,3-dihydro-8-methoxy-2-oxo-1H-3-benzazepine | 12 g | COC=1C=CC2=C(CC(NC=C2)=O)C1 | C11H11NO2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | 1.2 g | [Pd] | Pd
product | 8-methoxy-2-oxo-2,3,4,5-tetrahydro-1H-3-benzazepine | COC=1C=CC2=C(CC(NCC2)=O)C1 | C11H13NO2
